Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
imbalance, headache
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Mrs. ___ is a ___ right-handed woman presenting with
unsteady gait, lilting to the left, recent posterior neck and
head pain on a background of hypothyroidism and a significant
maternal family history of early vascular disease.

Perhaps on ___ or ___ last week - she cannot
recall - Mrs. ___ had severe pain over the whole of her
chest, radiating through to her back. The pain was very severe,
made her "double over" and lasted for about 30 minutes. Before
this she had "chills" - she felt cold inside, she says. She had
never had pain likely this, but, although in a different
location, it was similar in character to the pain of
cholecystitis. She typically has no neck or low back pain. This
resolved completely, was not associated with other symptoms and
fever did not appear after this subjective chill.

On ___ afternoon, at her register in ___, she developed
constant severe pain ___ on the back of her head and neck
bilaterally. Her eyes were very painful with a sharp, with
constant - not pulsatile - severe pain (no worsening with 
light).
The pain hit suddenly, reaching maximal intensity over a few
minutes. Her vision was mildly blurred at the time. She 
completed
the shift. She took Tylenol while still at work with some easing
of her pain, but pain was still upon going to sleep after taking
some NyQuil. She states that she has no history of migraine and
never gets headaches. There was no ataxia, she did not notice
that she was weak or numb anywhere. The only additional symptom
was a feeling of increased tiredness since this event.

The pain was gone completely when she awoke on ___. The pain
returned on ___ at work, starting at 6 ___. Her shift was to
end at 7 ___, but she left, given this pain at 6:45. She drove
home, went to the store, made some dinner, took Advil and went 
to
sleep. It was gone when she awoke on ___. There were still no
other neurologic symptoms. 

She ate dinner on ___, then sat down to play cards. While
sitting to play cards she felt as if and said "my head is
swimming". Her vision was slightly blurred - struggling to
maintain focus, without scintillations or scotoma. Her sister
asked if she had accidently had the wrong drink. She was sitting
with her sister and two nieces. Her blood pressure was elevated
at home, using a home cuff, to the 170s. When she attempted to
stand, she almost fell, all the time noticeably leaning to the
left. Her family drove her to ___, arriving about 9 ___.
While being driven to the hospital, she felt numb over the top 
of
her head, from the brow, extending backward to include the whole
top of her head to above the ears and to the occiput. Numbness
then expanded to include the sides of her face in a crescent,
first on the left, then to a lesser extent the right. 

At ___, she did poorly on finger-nose testing on the
left, per her family. Her head hurts when she is moved about 
(her
head in particular). Non-contrast head CT was normal and she was
transferred to ___ for "MRI and neuro eval". 

 
Past Medical History:
- Hypothyroidism - radioiodine
- Cholecystectomy
- Tubal ligation
- Ectopic pregnancy
- Three children

 
Social History:
___
Family History:
Family Hx:
Mother - vascular disease, hypercholesterolemia, multiple 
bypass,
MI, died ___. In ___ when had first heart attack. Father - 
bypass,
colon cancer. One sister with hypertension, arthritis, Lyme,
hypercholesterolemia.
 
Physical Exam:
General Appearance: Overweight, but healthy appearing.
Comfortable, no apparent distress.
HEENT: NC, OP clear, MMM.
Neck: Supple. No bruits on anterior or posterior. Reduced ROM,
mild to 80 degrees or so.
Spine: No tenderness to percussion.
Lungs: CTA bilaterally. Normal respiratory pattern. 
Cardiac: Regular. Normal S1/S2. No M/R/G.
Abdominal: Soft, NT, BS+.
Extremities: No edema, warm, normal capillary refill. Peripheral
pulses normal (DP 2+ b/l). Reduced pronation of left hand, fixed
based on congenital fusion, per patient.
Skin: Normal appearances. No xanthelasmata or xanthomas, etc.

Neurologic Examination:

Mental status:
Level of Arousal: Awake. Normal level of arousal and alertness.
Attentiveness: Attentive. Able to recite MOYBW. 
Language: Normal fluency, comprehension, repetition, naming. No
paraphasic errors.
Orientation: Oriented to name, BI, day/date/month/year, context
of presentation. 
Memory: Recall good for recent and remote events. 
Knowledge: Appropriate fund of knowledge - vocabulary and recent
events. 
Praxis: No apraxia/dyspraxia - can mime common tasks.
Proverbial Understanding: Abstract.
Attitude: Cooperative, agonistic. 
Mood and Affect: Euthymic, congruent, full-range.
Thought: Form - Normal. Content - Understandable level of 
concern
about presentation.
Perception: No hallucinations/delusions.
Judgment and Insight: Preserved, within normal limits.

Cranial Nerves:
I: Not tested.
II: Pupils symmetric, round and reactive to light, 3 to 2 mm
bilaterally. Visual fields are full to confrontation. Fundi are
normal.
III, IV, VI: Extraocular movements full, conjugate and without
nystagmus, no overshoot.
V, VII: Facial muscles symmetric and strong. Facial sensation
intact. 
VIII: Hearing intact to voice.
IX, X: Palatal elevation symmetric.
XI: Sternocleidomastoid and trapezius are of normal bulk and
strength bilaterally.
XII: Tongue midline without fasciculations.

Posture and Movement:
Posture is normal while seated and lying, leans to left on
standing, head not tilted to left when seated, without truncal
ataxia. No tremor or abnormal movements. 

Tone and Bulk:
Tone is normal throughout (arms, legs, neck). Muscle bulk is
normal. 

Power: No pronator drift on right and no curling of fingers or
flexion of arm on left (fixed prone as above).
   D  B  T  WE  FE  FF  FAb | IP  Q  H  AT  G/S  ___  TF
R  ___  ___   5   | ___  5   5    5    5 
L  ___  ___   4+  | ___  5   5    5    5 

Reflexes: Spread in arms, including from clavicle percussion to
wrist flexion. No pendular reflexes. 
   B  T  Br Pa Ac
R  ___  2  2 
L  ___  2  2 
Toes downgoing bilaterally, no ___.

Sensation:
Intact to light touch, vibration, joint position, pinprick
bilaterally. Romberg positive - falls to left on eye closure,
needs support.

Coordination and Cerebellar Function:
Normal finger nose, great toe finger, RAM's bilaterally.
Overshoot on left is marked and extra oscillation on right on
overshoot testing without large movement of arm.

Gait:
Not tested owing to marked lilt and instability on standing.

On discharge: no changes made
 
Pertinent Results:
Labs on admission:

___ 01:23AM   SED RATE-8
___ 01:23AM   ___ PTT-26.0 ___
___ 01:23AM   PLT COUNT-270
___ 01:23AM   NEUTS-44.5* LYMPHS-48.0* MONOS-4.0 EOS-3.0 
BASOS-0.5
___ 01:23AM   WBC-11.1* RBC-4.63 HGB-14.2 HCT-40.4 MCV-87 
MCH-30.7 MCHC-35.2* RDW-12.6
___ 01:23AM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 01:23AM   TSH-1.1
___ 01:23AM   TRIGLYCER-128 HDL CHOL-46 CHOL/HDL-3.8 
LDL(CALC)-101
___ 01:23AM   CALCIUM-9.2 PHOSPHATE-3.8 MAGNESIUM-2.3 
CHOLEST-173
___ 01:23AM   CK-MB-2
___ 01:23AM   cTropnT-<0.01
___ 01:23AM   CK(CPK)-65
___ 01:23AM   estGFR-Using this
___ 01:23AM   GLUCOSE-107* UREA N-15 CREAT-1.0 SODIUM-140 
POTASSIUM-4.3 CHLORIDE-107 TOTAL CO2-21* ANION GAP-16
___ 02:10AM URINE  RBC-1 WBC-3 BACTERIA-FEW YEAST-NONE 
EPI-1
___ 02:10AM URINE  BLOOD-SM  NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-TR
___ 02:10AM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 02:10AM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG mthdone-NEG
___ 02:10AM URINE  UCG-NEG
___ 02:10AM URINE  UCG-NEG
___ 06:07AM   %HbA1c-5.5 eAG-111
___ 12:04PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-NEG
___ 12:04PM URINE  COLOR-Straw APPEAR-Clear SP ___

Imaging:
  
FINDINGS: No focal lesions are identified in the posterior 
fossa. There is 
no mass or mass effect. There is no hydrocephalus. Normal flow 
voids 
identified within the skull base vessels. The paranasal sinuses 
and orbits 
are within normal limits. There is a retropharyngeal lymph node 
seen on the 
right side measuring 1.0 cm x 0.6 cm (9:2). Sagittal images show 
normal 
appearance of the midline structures. Diffusion-weighted imaging 
shows no 
evidence of recent infarct or ischemia. T2/FLAIR imaging shows 
multiple 
hyperintensities, nonspecific in nature in the periventricular 
white matter. 
  
IMPRESSION: 
1. No diffusion abnormalities. 
2. White matter lesions which are nonspecific. Differential 
diagnosis 
includes sequela of migraines, trauma, microvascular disease or 
demyelination. 
3. Right-sided retropharyngeal lymph node. 
  
The study and the report were reviewed by the staff radiologist. 


CT-CTA --HEAD
 
The ventricles, sulci, and cisterns are age appropriate. There 
is no evidence 
of intracranial hemorrhage, mass or infarction. There is no 
apparent 
extra-axial collection. 
  
The osseous structures are unremarkable. There is mucosal 
thickening of the 
bialteral maxillary sinuses, ethmoid air cells and right 
sphenoid sinus. There 
is mucosal thickening and air fluid level in the left sphenoid 
sinus. The 
orbits are normal. The soft tissues are unremarkable. The 
visualized portions 
of the lung apices are unremarkable. The thyroid gland is normal 
in 
appearance. The soft tissues of the neck are normal appearing. 
  
IMPRESSION: 
  
1. Mild atherosclerotic disease with no significant stenosis, 
aneurysm or AVM. 
  
2. Pansinus disease with acute sinus disease components in the 
left sphenoid 
sinus. 

 
Brief Hospital Course:
___ yo F with acute onset dizziness, imbalance and headache 
concerning for vestibular process vs. cerebellar stroke. Exam 
notable for Left arm overshoot, right beating nystagmus and 
leaning to the left during gait testing. Normal NCHCT. Normal 
MRI.

On further testing, gait testing revealed a possible functional 
component to both her FNF and Romberg testing. Although 
initially she showed a persistent tilt to the left, always 
catching herself before she fell. When she was challenged during 
the Romberg with identifying letters and numbers on her 
forehead, her tendency to fall actually disappeared. There was 
no focal weakness and no nystagmus either spontaneous or 
provoked.

She was seen by ___ who recommended a walker and outpatient 
Physical therapy.

Given the reassuring exam findings and clinical exam, she was 
discharged with physical therapy follow up and Neurology follow 
up to document further recovery. She is scheduled to see Dr. 
___ in clinic. 

No changes were made to her medications. 

 
 
Medications on Admission:
Levoxyl
 
Discharge Medications:
1. levothyroxine 112 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).    
2. Outpatient Physical Therapy

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Migraine with aura
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
You were admitted for concerns regarding your headache and 
imbalance. You underwent an MRI which was normal. You were seen 
by physical therapy who gave you a walker and recommended 
outpatient physical therapy follow up. 

No changes were made to your medications.

Please follow up with Dr. ___ in ___.

Please call with questions or concerns. 

 
Followup Instructions:
___